US07105679B2
[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-acetaldehyde
At −78° C., to a solution of [2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-acetic acid methyl ester, the compound prepared as in Example 96 (120 mg, 0.21 mmol) in toluene (2 mL) was added DIBAL (0.28 mL, 1.5 M in toluene, 2 eq.) at −78° C. and stirred for 6 hours at −78° C. The reaction mixture was then quenched at −78° C. with chilled MeOH. HPLC purification of the residue yielded the title compound as a thick oil.

reactant | [2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-acetic acid methyl ester | COC(CC1OC=2C=C(C=CC2C=2COC=3C=C(C=CC3C21)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C31H44O6Si2
reactant | DIBAL | 1.5 M, 0.28 mL, 2 eq. | CC(C)C[AlH]CC(C)C
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | [2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-acetaldehyde | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3CC=O)O[Si](C)(C)C(C)(C)C)(C)C | C30H42O5Si2
